US08134024B2
Synthesis of 2-acrylamido-2-methyl-1-propanesulfonic acid-ammonium salt monomer.
A nitrogen purged 50 ml schlenk flask was charged with freshly distilled tris[2-(2-methoxyethoxy)-ethyl]amine (1.69 g, 5.24 mmol) and 2-acrylamido-2-methyl-1-propanesulfonic acid (1.09 g, 5.24 mmol) and stirred at ambient temperature for 8 hr or until completely dissolved. Total dissolution completes formation of the AMPS ammonium salt monomer as a transparent light amber oil in a 99% yield which was used immediately without further purification.

reactant | tris[2-(2-methoxyethoxy)-ethyl]amine | 5.24 mmol, 1.69 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | 2-acrylamido-2-methyl-1-propanesulfonic acid | 5.24 mmol, 1.09 g | C(C=C)(=O)NC(CS(=O)(=O)O)(C)C | C7H13NO4S
product | 2-acrylamido-2-methyl-1-propanesulfonic acid-ammonium salt | 99% yield | [NH4+].C(C=C)(=O)NC(CS(=O)(=O)[O-])(C)C | InChI=1S/C7H13NO4S.H3N/c1-4-6(9)8-7(2,3)5-13(10,11)12;/h4H,1,5H2,2-3H3,(H,8,9)(H,10,11,12);1H3
